US08314097B2
4-Methyl-3-trifluoromethylbenzonitrile is brominated with NBS according to Example 1A to give 4-bromomethyl-3-trifluoromethylbenzonitrile. 1H NMR (400 MHz, CDCl3) δ (ppm) 7.94 (s, 1H), 7.85 (d, J=8.1 Hz, 1H), 7.76 (d, J=8.1 Hz, 1H), 4.63 (s, 2H).

reactant | 4-Methyl-3-trifluoromethylbenzonitrile | CC1=C(C=C(C#N)C=C1)C(F)(F)F | C9H6F3N
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | 4-bromomethyl-3-trifluoromethylbenzonitrile | BrCC1=C(C=C(C#N)C=C1)C(F)(F)F | C9H5BrF3N
